US07572820B2
To a rt solution of 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole (1.16 g, 0.0024) in acetic acid (20 mL, glacial) was added Br2 (1.2 g, 0.008 mol in acetic acid) dropwise. The mixture was stirred for an additional 10 min and water (10 mL) was added. The mixture was extracted with EtOAc (100 mL). The organic layer was separated and dried (MgSO4) and concentrated. Purification via ISCO normal phase chromatography (SiO2, 5-15% ethyl acetate/hexanes) to provide 4-bromo-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole as the regioselective bromination product: MS (ES) m/z 485 (M+1).

reactant | 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole | 1.16 g | C1(=CC=CC=C1)COC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CCC | C24H23NO3S
reactant | Br2 | 0.008 mol, 1.2 g | BrBr | Br2
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole | BrC1=C2C=C(N(C2=CC=C1OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)CCC | C24H22BrNO3S
